US09127016B2
3-(Cyclohexylamino)-2,3-dihydro-1H-inden-1-one (ICD)
3-Bromo-2,3-dihydro-1H-inden-1-one (100 mg, 475 μmol) and cyclohexylamine (94 mg, 951 μmol) were dissolved in 2 mL of dry benzene and stirred under N2 until precipitation ceased (˜15 min). The cyclohexylamine•HBr was removed by filtration. The filtrate was applied to a flash SiO2 column that was developed with 8:1 hexanes-EtOAc to give the title compound as a clear oil (91 mg, 84% yield).

reactant | 3-Bromo-2,3-dihydro-1H-inden-1-one | 475 μmol, 100 mg | BrC1CC(C2=CC=CC=C12)=O | C9H7BrO
reactant | cyclohexylamine | 951 μmol, 94 mg | C1(CCCCC1)N | C6H13N
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
product | 3-(Cyclohexylamino)-2,3-dihydro-1H-inden-1-one | 91 mg, 84% yield | C1(CCCCC1)NC1CC(C2=CC=CC=C12)=O | C15H19NO
